US07405210B2
2-(S)-[(5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carbonyl)amino]-3-phenylpropionic acid ethyl ester
To a solution of 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (Preparation 18, 2.00 g, 10.2 mmol) in DMF (50 mL) was added L-phenylalanine ethyl ester hydrochloride (2.45 g, 10.7 mmol), HOBt (1.37 g, 10.2 mmol) and DIPEA (5.3 mL, 30.5 mmol). After 5 min, EDCI (2.54 g, 13.2 mmol) was added and the reaction mixture stirred at rt for 16 h. The solvent was removed in vacuo and the solid dissolved in ethyl acetate (150 mL) and washed with water (200 mL). The organic phase was dried (MgSO4), concentrated in vacuo and purified by chromatography on silica gel eluting with methanol/dichloromethane (3:97) to give the title compound as a pale yellow solid. δH (CD3OD): 1.21 (3H, t), 3.13 (1H, dd), 3.28 (1H, dd), 4.17 (2H, q), 4.86 (1H, m), 7.09 (1H, s), 7.16–7.26 (5H, m), 7.65 (1H, s), 8.55 (1H, s); m/z (ES+)=372 [M+H]+.

reactant | 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid | 10.2 mmol, 2.00 g | ClC=1C=C2C(=CN1)NC(=C2)C(=O)O | C8H5ClN2O2
reactant | L-phenylalanine ethyl ester hydrochloride | 10.7 mmol, 2.45 g | Cl.C(C)OC([C@@H](N)CC1=CC=CC=C1)=O
reactant | HOBt | 10.2 mmol, 1.37 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 30.5 mmol, 5.3 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 13.2 mmol, 2.54 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2-(S)-[(5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carbonyl)amino]-3-phenylpropionic acid ethyl ester | C(C)OC([C@H](CC1=CC=CC=C1)NC(=O)C1=CC=2C(=CN=C(C2)Cl)N1)=O | C19H18ClN3O3
